US08492582B2
Methanol (4 mL) and a 2 mol/L aqueous solution of sodium hydroxide (0.95 mL) were added to the obtained methyl 2-(2-acetoxy-5-ethoxybenzamido)-4-phenylbenzoate (0.082 g), followed by stirring at room temperature for 3 hours and 30 minutes and then heating to reflux for 30 minutes. The reaction mixture was cooled to room temperature and adjusted to a pH of 1.2 with 6 mol/L hydrochloric acid. The solid substance was collected by filtration to obtain 0.055 g of 2-(5-ethoxy-2-hydroxybenzamido)-4-phenylbenzoic acid as a white solid.

reactant | sodium hydroxide | 0.95 mL | [OH-].[Na+]
reactant | methyl 2-(2-acetoxy-5-ethoxybenzamido)-4-phenylbenzoate | 0.082 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCC | C25H23NO6
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | Methanol | 4 mL | CO | CH4O
product | 2-(5-ethoxy-2-hydroxybenzamido)-4-phenylbenzoic acid | 0.055 g | C(C)OC=1C=CC(=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C1)O | C22H19NO5
